US07365064B2
5-(3,4-Dihydro-2H-benzo[b][1,4]oxazin-4-yl)-5-oxopentyl bromide
To a solution of 3,4-dihydro-2H-benzo[b]oxazine (500 mg, 1 eq, 3.7 mmol), triethylamine (1.54. ml, 3 eq, 11.1 mmol) and catalytic amount of DMAP in dry DCM (20 ml) was added 5-bromo pentanoyl chloride (870 μl, 2 eq, 7.40 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 4 h and then diluted with excess ethyl acetate. The ethyl acetate layer was washed with dil. HCl, water and then with brine. The residue was chromatographed with ethyl acetate and hexane to yield the title compound liquid (535 mg, yield 53%) as viscous liquid.

reactant | triethylamine | 11.1 mmol, 3 eq | C(C)N(CC)CC | C6H15N
reactant | 5-bromo pentanoyl chloride | 7.40 mmol, 870 μl, 2 eq | BrCCCCC(=O)Cl | C5H8BrClO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3,4-Dihydro-2H-benzo[b][1,4]oxazin-4-yl)-5-oxopentyl bromide | O1C2=C(N(CC1)C(CCCCBr)=O)C=CC=C2 | C13H16BrNO2
